US05130443
2-Hydroxy-11H-benzo(a)carbazole-3-carboxylic acid (0.5 gram, 1.8 millimoles) was reacted with aniline (0.44 gram, 4.5 millimoles) in 10 milliliters of o-dichlorobenzene in the presence of a condensing reagent, phosphorus oxychloride (0.37 gram, 2.4 millimoles), at reflux under a nitrogen atmosphere. After 5 hours, TLC analysis revealed that the starting acid was consumed, but that no anilide product, 2-hydroxy-11H-benzo(a)carbazole-3-carboxanilide, was formed.

reactant | 2-Hydroxy-11H-benzo(a)carbazole-3-carboxylic acid | 1.8 millimoles, 0.5 gram | OC=1C(=CC=2C(=C3NC4=CC=CC=C4C3=CC2)C1)C(=O)O | C17H11NO3
reactant | aniline | 4.5 millimoles, 0.44 gram | NC1=CC=CC=C1 | C6H7N
reactant | phosphorus oxychloride | 2.4 millimoles, 0.37 gram | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | o-dichlorobenzene | 10 milliliters | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-hydroxy-11H-benzo(a)carbazole-3-carboxanilide | OC=1C(=CC=2C(=C3NC4=CC=CC=C4C3=CC2)C1)C(=O)NC1=CC=CC=C1 | C23H16N2O2
